US07132434B2
b) 4-Butoxy-N-(1-hydroxy-2,5-dioxo-pyrrolidin-3(S)-yl)- benzenesulfonamide
N-(1-Benzyloxy-2,5-dioxo-pyrrolidin-3(S)-yl)-4-butoxy-benzenesulfonamide (100 mg, 0,23 mmol) was hydrogenated at atmospheric pressure for 1 h in ethyl acetate/methanol (1:1, 4 mL) with palladium on activated charcoal (50 mg, 10%). The mixure was filtered through Celite® and concentrated. The residue was purified by silica gel chromatography (ethyl acetate-acetic acid, 100:2) to give 59 mg (75%) of the title compound.

reactant | N-(1-Benzyloxy-2,5-dioxo-pyrrolidin-3(S)-yl)-4-butoxy-benzenesulfonamide | 0,23 mmol, 100 mg | C(C1=CC=CC=C1)ON1C([C@H](CC1=O)NS(=O)(=O)C1=CC=C(C=C1)OCCCC)=O | C21H24N2O6S
solvent | ethyl acetate methanol | 4 mL | C(C)(=O)OCC.CO
catalyst | palladium on activated charcoal | 50 mg | [Pd] | Pd
product | 4-Butoxy-N-(1-hydroxy-2,5-dioxo-pyrrolidin-3(S)-yl)- benzenesulfonamide | 59 mg, 75% | C(CCC)OC1=CC=C(C=C1)S(=O)(=O)N[C@@H]1C(N(C(C1)=O)O)=O | C14H18N2O6S
